US05023255
Methyl [1-(3-methoxyphenyl)hydrazino]acetate
To a cold (0°) solution of N-(3-methoxyphenyl)glycine methyl ester (50 g) in aqueous acetic acid (800 ml) was added dropwise an aqueous solution (200 ml) of sodium nitrite (21.2 g) and the mixture was stirred for 30 min. Methanol (200 ml) was added and the mixture was cooled to -10°. Zinc dust (83.2 g) was added portionwise over 2 h during which time the internal temperature was maintained at -10° to 0° and the mixture was stirred for a further 1 h at 0°. Dichloromethane (800 ml) and water (800 ml) were added and the resulting suspension was filtered. The filtrate was diluted with more water (500 ml) and dichloromethane (500 ml). The phases were separated and the aqueous layer was partitioned with more dichloromethane (2×500 ml). The combined organic extracts were washed with water (3×500 ml) and evaporated in vacuo. The residual oil was treated with 8% sodium bicarbonate (1000 ml) and partitioned with ether (3×700 ml). The combined organic layers were washed with brine (500 ml), dried and evaporated. Purification by FCC eluting with System A (1:1) and then System A (7:3) gave the title compound (8.2 g) as an oil, t.l.c (System A, 1:1) Rf 0.12.

reactant | N-(3-methoxyphenyl)glycine methyl ester | 50 g | COC(CNC1=CC(=CC=C1)OC)=O | C10H13NO3
reactant | sodium nitrite | 200 ml, 21.2 g | N(=O)[O-].[Na+]
reactant | Methanol | 200 ml | CO | CH4O
reactant | Dichloromethane | 800 ml | ClCCl | CH2Cl2
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 83.2 g | [Zn] | Zn
solvent | water | 800 ml | O | H2O
product | Methyl [1-(3-methoxyphenyl)hydrazino]acetate | 8.2 g | COC=1C=C(C=CC1)N(N)CC(=O)OC | C10H14N2O3
